US09029391B2
Methyl 4-[(3,4-dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate
To a solution of methyl 4-[(3,4-dimethylphenyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (2.03 g, 6.03 mmol) in DMF (40 mL) at 0° C. was added sodium hydride (0.362 g, 9.05 mmol) followed by methyl iodide (5.66 mL, 91 mmol). The mixture was stirred at room temperature for 18 hours. 1M HCl/water was added and the mixture was extracted with EtOAc. The organic phase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The crude product was purified on silica using EtOAc/hexanes 30-50% to provide the title compound as an off-white solid (2 g, 95%): 1H NMR (400 MHz, CDCl3) δ ppm 8.56-8.37 (m, 1 H), 8.03 (s, 1 H), 7.62-7.47 (m, 2 H), 6.93 (d, J=8.4 Hz, 1 H), 6.48 (d, J=2.3 Hz, 1 H), 6.40 (dd, J=2.5, 8.2 Hz, 1 H), 3.77 (s, 3 H), 3.57 (s, 3 H), 3.24 (s, 3 H), 3.04-2.95 (m, 2 H), 2.89 (s, 2 H), 2.17 (d, J=8.8 Hz, 6 H);); ES-LCMS: 351.3 (M+1).

reactant | methyl 4-[(3,4-dimethylphenyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 6.03 mmol, 2.03 g | CC=1C=C(C=CC1C)NC1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC | C20H20N2O3
reactant | sodium hydride | 9.05 mmol, 0.362 g | [H-].[Na+]
reactant | methyl iodide | 91 mmol, 5.66 mL | CI | CH3I
reactant | HCl water | 1M | Cl.O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Methyl 4-[(3,4-dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 2 g, 95% | CC=1C=C(C=CC1C)N(C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC)C | C21H22N2O3
